US08729102B2
A) tert-butyl [(1S)-2-(4-bromo-3-fluorophenoxy)-1-methylethyl]carbamate
Diisopropyl azodicarboxylate (1.9 M solution in toluene, 83 mL) was added to a mixture of 4-bromo-3-fluorophenol (25.0 g), tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate (25.2 g), triphenylphosphine (41.2 g), and THF (250 mL) dropwise at 0° C. The mixture was stirred at 0° C. for 30 min, and then at room temperature for 3 hr. The mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (33.7 g) as a pale yellow solid.

reactant | Diisopropyl azodicarboxylate | 1.9 M, 83 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-bromo-3-fluorophenol | 25.0 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate | 25.2 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 41.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | tert-butyl [(1S)-2-(4-bromo-3-fluorophenoxy)-1-methylethyl]carbamate | 33.7 g | BrC1=C(C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)F | C14H19BrFNO3
